US07626021B2
Step 2: Synthesis of 2-{3-[3-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide
To a solution of {3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid (100 mg, 0.19 mmol), dimethylamine (2 N solution in THF, 0.19 mL, 0.38 mmol), diisopropylethylamine (49 mg, 0.38 mmol) in THF was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,-tetramethyluromiumhexafluorophosphate (110 mg, 0.29 mmol). The resulting suspension was heated to 60° C. with stirring till the O-(7-azabenzotriazol-1-yl)-N,N,N′N′-tetramethyluromiumhexafluorophosphate completely dissolved. The THF was evaporated and the residue was used in the next step reaction without further purification. MS: m/z 517 (M+H+).

reactant | {3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid | 0.19 mmol, 100 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)CC(=O)O)COCC[Si](C)(C)C | C27H31N3O4Si
reactant | dimethylamine | 0.38 mmol, 2 N, 0.19 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.38 mmol, 49 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 2-{3-[3-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)CC(=O)N(C)C)COCC[Si](C)(C)C | C29H36N4O3Si
